US04083983
1-Methylamino-[2-(3-ethoxy-2-pyridylmethylthio)ethylamino]-2-nitroethylene
Methylamine in ethanol (33%, 25 cc) was added to 1-methylthio-1-[2-(3-ethoxy-2-pyridylmethylthio)ethylamino]-2-nitro ethylene (1.32 g) and the mixture was stirred at 40° for 1 hour and 1 hour at room temperature. Nitrogen was bubbled through the mixture for 1 hour and the precipitate was recrystallised from ethanol/ether to give the title product (0.52 g) m.p. 130°-131°.

reactant | Methylamine | CN | CH5N
reactant | 1-methylthio-1-[2-(3-ethoxy-2-pyridylmethylthio)ethylamino]-2-nitro ethylene | 1.32 g | CSC(=C[N+](=O)[O-])NCCSCC1=NC=CC=C1OCC | C13H19N3O3S2
solvent | ethanol | 25 cc | C(C)O | C2H6O
product | 1-Methylamino-[2-(3-ethoxy-2-pyridylmethylthio)ethylamino]-2-nitroethylene | 0.52 g | CNC(=C[N+](=O)[O-])NCCSCC1=NC=CC=C1OCC | C13H20N4O3S
